US07067529B2
To a stirred solution of afforded 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carbaldehyde (200 mg, 0.49 mmol) in t-butanol (2 mL) and water (2 mL) solution was added sodium dihydrogenphosphate monohydrate (184 mg, 1.33 mmol), 2-methyl-2-butene (0.226 mL, 2.00 mmol) and sodium chlorite (181 mg, 2.00 mmol) at room temperature. The reaction suspension was then stirred at room temperature for 14 hrs. The resulting two-phase mixture was partitioned between dichloromethane and water and acidified to pH=3 by addition of acetic acid. The aqueous phase was then extracted with dichloromethane (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (30 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a brown semi-solid oil. The crude product was recrystallized in ethyl acetate and hexane to afford 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (120 mg, 58% yield) as a yellow solid: HR-MS m/e calcd for C24H23N1O6 (M−H+) 421.1525, found 421.1526; 1H NMR (300 MHz) compatible.

reactant | 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carbaldehyde | 0.49 mmol, 200 mg | C1(CCCC1)OC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C=O | C24H23NO5
reactant | sodium dihydrogenphosphate monohydrate | 1.33 mmol, 184 mg | O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 2.00 mmol, 0.226 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 2.00 mmol, 181 mg | Cl(=O)[O-].[Na+]
solvent | t-butanol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid | 120 mg, 58% yield | C1(CCCC1)OC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C(=O)O | C24H23NO6
